* Standalone bk_mult test
* Sweeps GAIN and SIGNAL to verify multiplication K factor

.include neuron.spice

VCC vcc 0 DC 5
VEE vee 0 DC -5

* Bias infrastructure (same as neuron forward)
R_bias_top vcc bias_raw 4.7k
R_bias_bot bias_raw vee 15k
Q_bias_buf vcc bias_raw w_bias NPN_AN
R_bias_load w_bias vee 20k

R_tail_ref vcc tail_ref_c 4.65k
Q_tail_ref tail_ref_c tail_ref_c vee NPN_AN

R_ref3_top vcc ref3_raw 2.6k
R_ref3_bot ref3_raw vee 13k
Q_ref3_buf vcc ref3_raw ref3 NPN_AN
R_ref3_load ref3 vee 10k

Vina ina 0 DC 0.5
Vinb inb 0 DC 0

* Inject node: voltage source to measure output current
Vtarget target 0 DC 0

* bk_mult: GAIN=ina, SIGNAL=inb, INJECT=target
X1 ina inb target vcc vee w_bias tail_ref_c ref3 bk_mult

.control
set noaskquit

echo "============================================"
echo "bk_mult Operating Point (GAIN=0.5, SIGNAL=0)"
echo "============================================"
op
echo "outn_bk (mirror output, drives R_inject):"
print V(x1.outn_bk)
echo "I(Vtarget) at quiescent:"
print I(Vtarget)

echo ""
echo "============================================"
echo "Sweep SIGNAL at GAIN=+0.5"
echo "============================================"
alter Vina DC = 0.5
dc Vinb -0.5 0.5 0.02
meas DC i_n05a FIND I(Vtarget) AT=-0.48
meas DC i_p05a FIND I(Vtarget) AT=0.48
let slope_p05 = (i_p05a - i_n05a) / 0.96
echo "dI/dSIGNAL at GAIN=+0.5:"
print slope_p05

echo ""
echo "============================================"
echo "Sweep SIGNAL at GAIN=-0.3"
echo "============================================"
alter Vina DC = -0.3
dc Vinb -0.5 0.5 0.02
meas DC i_n05b FIND I(Vtarget) AT=-0.48
meas DC i_p05b FIND I(Vtarget) AT=0.48
let slope_n03 = (i_p05b - i_n05b) / 0.96
echo "dI/dSIGNAL at GAIN=-0.3:"
print slope_n03

let ratio = abs(slope_p05 / slope_n03)
echo "Ratio |slope(0.5)/slope(-0.3)| (expect 1.67):"
print ratio

echo ""
echo "============================================"
echo "Sweep SIGNAL at GAIN=0"
echo "============================================"
alter Vina DC = 0
dc Vinb -0.5 0.5 0.02
meas DC i_n05c FIND I(Vtarget) AT=-0.48
meas DC i_p05c FIND I(Vtarget) AT=0.48
let slope_0 = (i_p05c - i_n05c) / 0.96
echo "dI/dSIGNAL at GAIN=0 (expect ~0):"
print slope_0

echo ""
echo "Done."

.endc
.end
